US04946839
208 mg (0.5 mmol) of stereochemically pure transor cis-N-benzylazetidine-2,4-dicarboxylic acid dibenzyl ester and 20 mg of 10% Pd/C in 15 ml of methanol are hydrogenated as above. The reaction mixture is diluted with 50 ml of warm water, filtered, and evaporated to dryness to afford as off-white solids the trans- or cis azetidine-2,4-dicarboxylic acid in virtually quantitative yield.

reactant | cis-N-benzylazetidine-2,4-dicarboxylic acid dibenzyl ester | C(C1=CC=CC=C1)OC(=O)[C@@H]1N([C@@H](C1)C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C26H25NO4
solvent | methanol | 15 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | cis azetidine-2,4-dicarboxylic acid | quantitative yield | N1[C@H](C[C@H]1C(=O)O)C(=O)O | C5H7NO4
